US07015328B2
2-Imino-3-cyano-7-methoxy-4-(3-methoxy-phenyl)-2H-thiochromene: To a mixture of (2-mercapto-4-methoxyphenyl)-(3′-methoxyphenyl)-methanone (35 mg, 0.13 mmol) and malononitrile (8.5 mg, 0.13 mmol) in approximately 200 μL of dry ethanol was added piperidine (7.0 μL, 0.06 mmol) at approximately 0° C. The resultant mixture was stirred at approximately 0° C. for approximately 2.5 h. The solvent was evaporated and the residue was purified by flash chromatography (silica gel, EtOAc:hexanes, 1:4) to yield 31 mg (75%) of 2-imino-3-cyano-7-methoxy-4-(3′-methoxy-phenyl)-2H-thiochromene-3-carbonitrile as an orange waxy oil. 1H NMR (CDCl3): 9.31 (brs, 1H), 7.42-7.46 (m, 1H), 7.03-7.11 (m, 2H), 6.91 (d,J=7.8 Hz, 1H), 6.85-6.86 (m, 1H), 6.80 (bs, 1H), 6.68 (dd, J=9.1, 2.6 Hz, 1H), 3.85 (s, 3H), 3.84 (s, 3H).

reactant | 2-Imino-3-cyano-7-methoxy-4-(3-methoxy-phenyl)-2H-thiochromene | N=C1SC2=CC(=CC=C2C(=C1C#N)C1=CC(=CC=C1)OC)OC | C18H14N2O2S
reactant | (2-mercapto-4-methoxyphenyl)-(3′-methoxyphenyl)-methanone | 0.13 mmol, 35 mg | SC1=C(C=CC(=C1)OC)C(=O)C1=CC(=CC=C1)OC | C15H14O3S
reactant | malononitrile | 0.13 mmol, 8.5 mg | C(CC#N)#N | C3H2N2
reactant | piperidine | 0.06 mmol, 7.0 μL | N1CCCCC1 | C5H11N
solvent | ethanol | approximately 200 μL | C(C)O | C2H6O
product | 2-imino-3-cyano-7-methoxy-4-(3′-methoxy-phenyl)-2H-thiochromene-3-carbonitrile | 31 mg, 75% | N=C1SC2=CC(=CC=C2C(C1(C#N)C#N)C1=CC(=CC=C1)OC)OC | C19H15N3O2S
